* Z:\Documentos\GitHub\Projeto_Final_Udacity\Nonlinear Rectfier + 4bit PRBS [FALHA] - 300 - 0.2s.asc
R1 Vin N001 {falhaR1(mc(1.875,0.125),mc(8.125,0.125),mc(5,0.01))}
C1 V1 N001 {falhaC1(mc(0.375u,0.125),mc(1.625u,0.125),mc(1u,0.01))}
C2 0 V1 {falhaC2(mc(0.375m,0.125),mc(1.625m,0.125),mc(1m,0.01))}
L1 V1 Vout {falhaL1(mc(0.0375,0.125),mc(0.1625,0.125),mc(0.1,0.01))}
C3 Vout 0 {falhaC3(mc(0.375m,0.125),mc(1.625m,0.125),mc(1m,0.01))}
RL Vout 0 1K
D1 N001 V1 1N4148
V§CLOCK1 clock 0 PULSE(0 1 250n 2n 2n 10m 20m)
A1 N002 0 clock 0 0 N003 Vin 0 DFLOP td=20n Ref=1 Vhigh=10 Vlow=0
A2 Vin 0 clock 0 0 0 Q2 0 DFLOP Ref=1 Vhigh=3 Vlow=0 td=20n
A3 0 Q3 Q4 input 0 0 N002 0 XOR Ref=1 Vhigh=1 Vlow=0 Td=5n tripdt=5n
A4 Q2 0 clock 0 0 0 Q3 0 DFLOP Ref=1 Vhigh=2 Vlow=0 td=20n
A5 Q3 0 clock 0 0 0 Q4 0 DFLOP Ref=1 Vhigh=10 Vlow=0 td=20n
V1 input 0 PULSE(0 1 0 1n 1n 250n 5us 1)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
;ac dec 100 10k 1meg
.step param run 1 3300 1
.tran 0.2s
.function falhaR1(baixo,alto,mc)  if((run>X)&(run<=2*X), alto,if (run<=X,baixo,mc))
.function falhaL1(baixo,alto,mc)  if((run>3*X)&(run<=4*X), alto,if ((run<=3*X)&(run>2*X),baixo,mc))
.function falhaC2(baixo,alto,mc)   if((run>7*X)&(run<=8*X),alto, if((run<=7*X)&(run>6*X),baixo,mc))
.function falhaC1(baixo,alto,mc)  if((run>5*X)&(run<=6*X),alto, if((run<=5*X)&(run>4*X),baixo,mc))
.param X=300
.function falhaC3(alto,baixo,mc)  if((run>9*X)&(run<=10*X),alto, if((run<=9*X)&(run>8*X),baixo,mc))
* Para Ton no clock, o intervalo mínimo de excitação será Ton*2
.backanno
.end
